US08486967B2
b) 1-(6-Methylpyrimidin-4-yl)piperidin-4-one
To a solution of 8-(6-methylpyrimidin-4-yl)-1,4-dioxa-8-azaspiro[4.5]decane (4.64 g, 19.7 mmol) in acetone (45 mL) was added 2 N HCl (180 g, 150 mL, 4.94 mol) and stirred at 50° C. for 2 hours. The reaction mixture was cooled to room temperature, then adjusted to pH 7 with NaHCO3 solution. The aqueous phase was extracted 4 times with CH2Cl2, the organic layers were combined, dried over Na2SO4 and the solvent was evaporated. The title compound was obtained as light brown liquid (2.7 g, 72%).

reactant | 8-(6-methylpyrimidin-4-yl)-1,4-dioxa-8-azaspiro[4.5]decane | 19.7 mmol, 4.64 g | CC1=CC(=NC=N1)N1CCC2(OCCO2)CC1 | C12H17N3O2
reactant | HCl | 4.94 mol, 2 N, 150 mL, 180 g | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 45 mL | CC(=O)C | C3H6O
product | 1-(6-Methylpyrimidin-4-yl)piperidin-4-one | CC1=CC(=NC=N1)N1CCC(CC1)=O | C10H13N3O
